US07074799B2
3. 5′-Nitro-3-trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one
To a solution of 3-trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one (25 g, 0.1 mol) in concentrated sulfuric acid (100 mL) at 0° C., add dropwise a solution of fuming nitric acid (35 mL) and concentrated sulfuric acid (10 mL). Heat the reaction mixture to 70° C. for 1 hour, cool and pour onto ice (500 mL). Filter the mixture and treat the filtrate with 10 M sodium hydroxide until the solution is at pH 4-5. Collect the precipitate by filtration and air dry to give the title compound (26.2 g, 92%) as a white solid.

reactant | 3-trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one | 0.1 mol, 25 g | FC(C=1C(=NC=CC1)C1=CNC(C=C1)=O)(F)F | C11H7F3N2O
reactant | nitric acid | 35 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 5′-Nitro-3-trifluoromethyl-1′H-[2,3′]bipyridinyl-6′-one | 26.2 g, 92% | [N+](=O)([O-])C1=CC(=CNC1=O)C1=NC=CC=C1C(F)(F)F | C11H6F3N3O3
